US08202868B2
(S)-4-{3-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-2-methyl-propoxy}-pyrimidin-2-ol
1 g of (S)-2-tert-butyl-4-cyclobutyl-6-{4-[2-methyl-3-(2-methylsulfanyl-pyrimidin-4-yloxy)-propyl]-piperazin-1-yl}-pyrimidine (2.12 mmol) were dissolved in 10 ml of acetic acid. 2 g of aqueous hydrogen peroxide (17.6 mmol, 30% in water) were added at 0° C. The reaction mixture was stirred for 15 h at room temperature, poured onto water and the aqueous phase was adjusted to alkaline pH with saturated sodium bicarbonate solution. After extraction with ethyl acetate, the organic phase was dried over magnesium sulfate, filtered, and the solvent evaporated. The crude product was purified by chromatography on silica gel using dichloromethane-methanol (2%). Fractions containing the product were combined, the solvent was evaporated, and the residue treated with acetonitril, filtered and dried to yield 0.36 g of the title compound as a white solid.

reactant | (S)-2-tert-butyl-4-cyclobutyl-6-{4-[2-methyl-3-(2-methylsulfanyl-pyrimidin-4-yloxy)-propyl]-piperazin-1-yl}-pyrimidine | 2.12 mmol, 1 g | C(C)(C)(C)C1=NC(=CC(=N1)C1CCC1)N1CCN(CC1)C[C@@H](COC1=NC(=NC=C1)SC)C | C25H38N6OS
reactant | hydrogen peroxide | 17.6 mmol, 2 g | OO | H2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | (S)-4-{3-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-2-methyl-propoxy}-pyrimidin-2-ol | 0.36 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)C[C@@H](COC1=NC(=NC=C1)O)C)C1CCC1 | C24H36N6O2
